US05234946
600 mg of 2-chloro-4-(3-tolyl)thiazole was dissolved in a mixture of 8 ml of carbon tetrachloride and 2 ml of 1,2-dichloroethane. N-bromosuccinimide (511 mg) and 3 mg of benzoyl peroxide were added, and the mixture refluxed with stirring for 3 hours. After cooling, the precipitate was separated from the reaction mixture by filtration. It was washed with an aqueous solution of sodium hydrogen carbonate, and the solvent was evaporated under reduced pressure to give 4-(3-bromomethylphenyl)-2-chlorothiazole as a pale yellow oil.

reactant | 2-chloro-4-(3-tolyl)thiazole | 600 mg | ClC=1SC=C(N1)C=1C=C(C=CC1)C | C10H8ClNS
reactant | N-bromosuccinimide | 511 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 3 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 4-(3-bromomethylphenyl)-2-chlorothiazole | BrCC=1C=C(C=CC1)C=1N=C(SC1)Cl | C10H7BrClNS
